US08686184B2
2-(3-Carboxy-propyl)benzoic acid (335 mg, 1.6 mmol, 1.0 eq.) was combined with DIPEA (897 μL, 3.2 eq.) and HATU (0.612 g, 1.61 mmol, 1.0 eq.) in DCM (40 mL). The resulting mixture was stirred for 10 minutes and (2R,3R)-3-amino-4-(2-chloro-phenyl)-2-hydroxy-butyric acid butyl ester (HCl salt, 519 mg, 1.6 mmol, 1.0 eq.) was added. The reaction was quenched after 1 hour by adding saturated NH4Cl and the product was extracted with DCM, dried and evaporated. The product was dissolved into AcOH (5 mL) and purified using preparative HPLC. The clean fractions were combined and lyophilized to yield 2-{3-[(1R,2R)-2-butoxycarbonyl-1-(2-chloro-benzyl)-2-hydroxy-ethylcarbamoyl]-propyl}-benzoic acid (150 mg).

reactant | 2-(3-Carboxy-propyl)benzoic acid | 1.6 mmol, 335 mg, 1.0 eq. | C(=O)(O)CCCC1=C(C(=O)O)C=CC=C1 | C11H12O4
reactant | DIPEA | 897 μL, 3.2 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 1.61 mmol, 0.612 g, 1.0 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2R,3R)-3-amino-4-(2-chloro-phenyl)-2-hydroxy-butyric acid butyl ester | 1.6 mmol, 519 mg, 1.0 eq. | C(CCC)OC([C@@H]([C@@H](CC1=C(C=CC=C1)Cl)N)O)=O | C14H20ClNO3
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | 2-{3-[(1R,2R)-2-butoxycarbonyl-1-(2-chloro-benzyl)-2-hydroxy-ethylcarbamoyl]-propyl}-benzoic acid | 150 mg | C(CCC)OC(=O)[C@@H]([C@@H](CC1=C(C=CC=C1)Cl)NC(=O)CCCC1=C(C(=O)O)C=CC=C1)O | C25H30ClNO6
